US06288096B1
8.55 g (38 mmole) 4-cyanophenethyl methanesulfonate, 4.64 g (38 mmole) p-hydroxybenzaldehyde and 18.7 g (57 mmole) cesium carbonate in 150 ml acetonitrile was refluxed over night. The salt was filtered off and the solvent evaporated in vacuo. The residue was treated with 2 M sodium hydroxide and dichloromethane. The organic phase was dried and evaporated in vacuo. Purification by chromatography on silica gel using dichloromethane as eluent gave 1.6 g (yield 17%) of 4-[2-(4-formylphenoxy)ethyl]benzonitrile.

reactant | 4-cyanophenethyl methanesulfonate | 38 mmole, 8.55 g | CS(=O)(=O)OCCC1=CC=C(C=C1)C#N | C10H11NO3S
reactant | p-hydroxybenzaldehyde | 38 mmole, 4.64 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cesium carbonate | 57 mmole, 18.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 4-[2-(4-formylphenoxy)ethyl]benzonitrile | 1.6 g, yield 17% | C(=O)C1=CC=C(OCCC2=CC=C(C#N)C=C2)C=C1 | C16H13NO2
